US04555507
A suspension of 0.7 g of 21-acetoxy-17α-ethoxymethoxy-11β-hydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione in 8 ml of a 0.2N methanolic potassium hydroxide solution is stirred for 30 minutes at 0° C. and thereafter neutralized with 10% strength acetic acid. After performing the usual working-up steps, 470 mg of 17α-ethoxymethoxy-11β,21-dihydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione is isolated, mp 100°-102° C.

reactant | 21-acetoxy-17α-ethoxymethoxy-11β-hydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione | 0.7 g | C(C)(=O)OCC([C@]1([C@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)C)OCOCC)=O | C28H40O7
reactant | potassium hydroxide | 0.2N | [OH-].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 17α-ethoxymethoxy-11β,21-dihydroxy-6α,16β-dimethyl-1,4-pregnadiene-3,20-dione | 470 mg | C(C)OCO[C@]1(C(CO)=O)[C@H](C[C@H]2[C@@H]3C[C@@H](C4=CC(C=C[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)C | C26H38O6
